US09227985B2
Step 1. 6-Bromo-4-fluoro-2,3-dinitrophenol
To a solution of 2-bromo-4-fluoro-5-nitrophenol (4.0 g, 17 mmol) in methylene chloride (29.5 mL), 2.0 M nitric acid in DCM (25 mL) was added and the mixture was stirred for 15 min at room temperature. The mixture was poured over cold water and extracted with methylene chloride to give the product.

reactant | 2-bromo-4-fluoro-5-nitrophenol | 17 mmol, 4.0 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3BrFNO3
reactant | water | O | H2O
reactant | nitric acid | 2.0 M | [N+](=O)(O)[O-] | HNO3
solvent | methylene chloride | 29.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-4-fluoro-2,3-dinitrophenol | BrC1=CC(=C(C(=C1O)[N+](=O)[O-])[N+](=O)[O-])F | C6H2BrFN2O5
